US04886821
An anhydrous solution of 1,1'-carbonyldiimidazole (13.13 g, 81 mmol) in dimethylformamide (80 mL) was treated with picolinic acid (10.0 g, 81 mmol), and after 1 hour 4-fluoroaniline (8.46 mL, 89 mmol) was introduced. After 27 hours the reaction mixture was poured into saturated sodium bicarbonate solution (900 mL) and ether (400 mL). The aqueous layer was extracted again with ether (3×400 mL) and the ethereal layers were dried and concentrated. The crude solid residue was recrystallized from a mixture of ether and petroleum ether to yield N-(4-fluorophenyl)-2-pyridinecarboxamide (11.6 g, 66%) as beige crystals, m.p. 100°-103° C.

reactant | 1,1'-carbonyldiimidazole | 81 mmol, 13.13 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | picolinic acid | 81 mmol, 10.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 4-fluoroaniline | 89 mmol, 8.46 mL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium bicarbonate | 900 mL | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | ether | 400 mL | CCOCC | C4H10O
product | N-(4-fluorophenyl)-2-pyridinecarboxamide | 11.6 g, 66% | FC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C12H9FN2O
